US07087579B2
To a suspension of 5-methyl-4-{[4-(cyclopropylidenemethyl)phenyl]methyl}-1,2-dihydro-3H-pyrazol-3-one (0.026 g) and acetobromo-α-D-glucose (0.049 g) in tetrahydrofuran was added silver carbonate (0.036 g), and the mixture was stirred at 60° C. overnight under light shielding. The reaction mixture was purified by column chromatography on aminopropyl silica gel (eluent: tetrahydrofuran) and successively by column chromatography on silica gel (eluent: hexane/ethyl acetate=1/3) to give 5-methyl-4-{[4-(cyclopropylidenemethyl)phenyl]methyl}-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.010 g).

reactant | 5-methyl-4-{[4-(cyclopropylidenemethyl)phenyl]methyl}-1,2-dihydro-3H-pyrazol-3-one | 0.026 g | CC1=C(C(NN1)=O)CC1=CC=C(C=C1)C=C1CC1 | C15H16N2O
reactant | acetobromo-α-D-glucose | 0.049 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | silver carbonate | 0.036 g | C([O-])([O-])=O.[Ag+2]
product | 5-methyl-4-{[4-(cyclopropylidenemethyl)phenyl]methyl}-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.010 g | CC1=C(C(=NN1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)C=C1CC1 | C29H34N2O10
